US06620811B2
6-Cyclohexyloxy-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide
From 6-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide with sodium hydride and cyclohexanol in dioxane and DMF. ES-MS m/e (%): 491 (M+Na+, 24), 469 (M+H+, 100).

reactant | 6-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide | ClC1=NC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C18H17ClN4O3S
reactant | sodium hydride | [H-].[Na+]
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-Cyclohexyloxy-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide | C1(CCCCC1)OC1=NC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C24H28N4O4S
